US04447422
(a) 2-n-Octylamino-5-ethoxycarbonyl-4-hydroxypyrimidine
2-Methylthio-5-ethoxycarbonyl-4-hydroxypyrimidine (2.5 mmol, 535 mg) was refluxed overnight in ethanol with n-octylamine (4 mmol, 650 μl). The product was filtered off and washed with ethanol. Yield 402 mg (54.5%)

reactant | 2-Methylthio-5-ethoxycarbonyl-4-hydroxypyrimidine | 2.5 mmol, 535 mg | CSC1=NC=C(C(=N1)O)C(=O)OCC | C8H10N2O3S
reactant | n-octylamine | 4 mmol, 650 μl | C(CCCCCCC)N | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Octylamino-5-ethoxycarbonyl-4-hydroxypyrimidine | C(CCCCCCC)NC1=NC=C(C(=N1)O)C(=O)OCC | C15H25N3O3
